Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Fish derived
 
Attending: ___.
 
Chief Complaint:
fever and neutropenia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with pancreatic adenocarcinoma s/p biliary stent 
placement and diagnostic laparoscopy and PAC placement, now on 
FOLFIRINOX (started ___ with planned radiation admitted 
from clinic with neutropenic fever.

Presents today with fever and leukopenia from her ___ 
clinic where she was seen by Dr ___. Patient endorses 
worsening fatigue, lethargy however she denies localizing 
symptoms such as cough, urinary frequency, dysuria, flank pain, 
back pain, neck pain, headache, abdominal pain, nausea, 
vomiting. She has had ongoing diarrhea in the setting of 
chemotherapy. She endorses chills.

She was recently evaluated at ___ from ___, C. diff 
negative, and continued diarrhea over the weekend that was 
controlled with Immodium.  
 
In ED
99.2 93 119/55 18 96% RA
developed fever to 102.8 without changes in other vitals
Labs were significant for elevated transaminases and alk phos. 
Patient was given IVF and cefepime for neutropenic fever, and 
transferred to the floor for further evaluation.

Upon arrival to the floor, she endorsed a dry mouth and general 
weakness and chills but had no other complaints.  States she had 
chills for at least the past week, if not longer, did not check 
her temperature following discharge from ___ on ___.  Her 
appetite is fair.  She has no dyspnea, no cough, no chest pain, 
no rashes, no headache, no myalgias or arthralgias.  No sick 
contacts.
 
Review of Systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies blurry vision, 
diplopia, loss of vision, photophobia. Denies sinus tenderness, 
rhinorrhea or congestion. Denies nausea, vomiting, constipation, 
abdominal pain, melena, hematemesis, hematochezia. Denies 
dysuria, stool or urine incontinence. Denies rashes or skin 
breakdown. No numbness/tingling in extremities. All other 
systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
Pancreatic Cancer:
___- presented with abdominal pain; CT A/P showed Pancreatic 
head mass measuring approximately 41 x 37 mm abutting and likely 
encasing the SMA and partially encasing the SMV; a pancreatic 
head mass abutted the confluence of the splenic vein and SMV 
with thrombus or tumor extension in the portal vein with 
dilatation of the pancreatic duct within the body and tail of 
the pancreas. There were small mesenteric lymph nodes which were 
felt to be nonspecific.
___- EUS (Dr. ___ showed pancreatic head mass with 
cytology positive for adenocarcinoma
___- developed biliary obstruction s/p placement of stent 
with normalization of LFTs
___- Diagnostic laparoscopy with Port-A-Cath placement (Dr. 
___- Peritoneal washings negative for malignant cells
___- Start FOLFIRINOX
Began to have diarrhea 3 days later, took imodium.
___ Admitted ___ with diarrhea, dehydration, chest 
pain. C. Diff negative, treated with fluids, imodium.
___ At home, continued to have diarrhea but less. Yesterday 
2 episodes, controlled with 2 doses of imodium.

Breast Cancer: 
___- noticed new left breast mass
___- mammogram normal
___- FNA left breast with malignant cells
___- bilateral breast MRIs: left with enhancement in known 
cancer (extending over 7.4 cm) and in axillary lymph node; right 
breast MRI with multiple high-signal areas likely representing 
cysts, as well as intermediate-signal region in central, 
slightly inner breast; u/s did not show lesion; repeat bilateral 
mammogram showed evid of left cancer as well as satellite lesion
___- core biopsy left breast mass with grade III, invasive 
ductal carcinoma, ER/PR-positive and her2neu negative; FNA left 
axillary node positive for malignant cells
___- CT C/A/P with small lung nodules; multiple small 
mediastinal lymph nodes; no definite evidence of mets; bone scan 
prelim negative for mets; ECHO with normal cardiac fx
___- started dose dense AC 
___- taxol
___- right breast lumpectomy and axillary lymph node 
dissection with 1.3 cm, grade III, invasive ductal carcinoma 
with LVI and no EIC; ___ score of 3 of 5; ___ nodes 
with cancer; ER/PR-positive and her2neu negative.
___  Arimidex
___- XRT
 
PAST MEDICAL HISTORY:  
hyperlipidemia, hiatal hernia, basal cell carcinoma, osteopenia,
varicose vein surgery, tonsils and adenoidectomy in childhood.

 
Social History:
___
Family History:
She has two sons in their ___ who are cancer free as is her 
brother and niece and nephew. Her mother was diagnosed with 
multiple myeloma at ___ and died at ___. Her other had two sisters 
and eight brothers. One of Ms. ___ aunts had colon cancer 
at ___ and two of her uncles had prostate cancer at older ages. 
She has one cousin with lung cancer and one who died of 
pancreatic cancer. She has no other maternal history of cancer 
reported. On her fathers side her father had lymphoma and passed 
away at ___. He had four sisters all of whom lived into their 
___ with no cancer and three brothers who were also cancer 
free. Ms. ___ had one paternal cousin, the daughter of an 
aunt, who died in her ___ from ovarian cancer. She does not 
report any other paternal history of cancer. BRCA testing 
negative 

 
Physical Exam:
=====================
ADMISSION EXAM
=====================
Vitals: 102.8 -> 99 after Tylenol
___  HR 109 -> 90s   RR 20  98% RA 
GENERAL: pleasant female, appears stated age, no distress.  
wearing dark reading glasses because other glasses broke
HEENT: anicteric sclerae, clear oropharynx, no exudate
Neck: no adenopathy
CARDIAC:  RRR, normal S1, S2, no murmurs or gallops
Chest: left chest port without erythema
LUNG:  clear lungs bilaterally, no wheezes or crackles
ABDOMEN:  soft, non-tender, slightly distended, active bowel 
sounds
EXTREMITIES:  2+ radial and DP pulses, no edema
NEURO:  CNs ___ intact, strength and sensation grossly intact 
in UEs and ___
SKIN:  no rashes, evidence of tinea pedis on feet with skin 
breakdown

=====================
DISCHARGE EXAM
=====================
Vitals: 98.3 130/75 92 20 95ra 
GENERAL: pleasant female, NAD
HEENT: anicteric sclerae, clear oropharynx, no exudate
CARDIAC:  RRR, normal S1, S2, no murmurs or gallops
Chest: left chest port without erythema
LUNG:  CTABL
ABDOMEN:  soft, non-tender, slightly distended, active bowel 
sounds
EXTREMITIES:  2+ radial and DP pulses, 1+ edema to the mid-thigh
NEURO:  AAOx3, CNs ___ intact, strength and sensation grossly 
intact 
SKIN:  no rashes, evidence of tinea pedis on feet without other 
superimposed infection

 
Pertinent Results:
=====================
ADMISSION LABS
=====================

___ 02:00PM   WBC-0.8*# RBC-3.45* HGB-11.1*# HCT-32.8*# 
MCV-95 MCH-32.1* MCHC-33.8 RDW-12.9
___ 02:00PM   NEUTS-0 BANDS-0 LYMPHS-80* MONOS-14* EOS-0 
BASOS-0 ATYPS-6* ___ MYELOS-0
___ 02:00PM   ALBUMIN-3.2*
___ 02:00PM   LIPASE-6
___ 02:00PM   ALT(SGPT)-45* AST(SGOT)-50* ALK PHOS-149* TOT 
BILI-1.5
___ 02:00PM   GLUCOSE-121* UREA N-8 CREAT-0.6 SODIUM-137 
POTASSIUM-3.2* CHLORIDE-104 TOTAL CO2-22 ANION GAP-14
___ 02:04PM   LACTATE-2.0
___ 10:00PM URINE  MUCOUS-RARE
___ 10:00PM URINE  AMORPH-RARE
___ 10:00PM URINE  RBC-0 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1 RENAL EPI-<1
___ 10:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___

=====================
DISCHARGE LABS
=====================
___ 05:30AM BLOOD WBC-23.9* RBC-2.85* Hgb-9.1* Hct-28.1* 
MCV-99* MCH-31.9 MCHC-32.3 RDW-15.0 Plt ___
___ 05:30AM BLOOD ___ PTT-43.1* ___
___ 05:30AM BLOOD Glucose-109* UreaN-8 Creat-0.5 Na-140 
K-3.4 Cl-107 HCO3-28 AnGap-8
___ 05:30AM BLOOD ALT-30 AST-38 AlkPhos-235* TotBili-0.7
___ 05:30AM BLOOD Calcium-7.5* Phos-2.4* Mg-1.9
___ 04:25PM BLOOD TSH-3.1

=====================
MICRO
=====================
BCX - NGTD, drawn on 3 days
UCx - final no growth
C. diff negative
Stool O+P negative, culture no growth

=====================
STUDIES
=====================
RUQ U/S
The common bile duct stent in place with minimal gas in the 
biliary tree.  No  evidence of intra or extrahepatic biliary 
duct dilatation 

CXR:
Small bilateral pleural effusions. No evidence of pneumonia. 

 
Brief Hospital Course:
___ yo female with non-resectable pancreatic adenocarcinoma s/p 
FOLFIRINOX with neutropenic fever. 

#. Neutropenic fever- Patient met SIRS criteria on admission for 
fever, tachypnea and tachycardia.  Her only localizing symptom 
was diarrhea which had been persistent for 1 week and which had 
a negative workup previous at OSH.  She was covered with 
Vanc/Cefepime/Flagyl from ___ to ___.  She was given Neupogen 
and her counts recovered.  She was afebrile for 48 hours with 
cultures negative and neutropenia resolved and antibiotics were 
stopped without subsequent fevers.  She developed leukocytosis 
in the setting of having been administered Neupogen. 

# CV-r : Patient transferred to the ICU on ___ for new AFib 
with RVR and associated hemodynamic instability with SBPs in ___ 
after being given Metoprolol.  Electrical cardioversion was 
attempted and was unsuccessful. She was given IVF and started 
wtih amiodarone loading was begun on floor.  In the ICU, she was 
continued on amiodarone gtt. This resulted in rebound in blood 
pressure and restoration of SR on morning of transfer. 
Cardiology was consulted. They recommended continuing Amiodarone 
loading.  She was started on metoprolol 25 mg XL daily. Two sets 
of cardiac enzymes and TSH were WNL.  She may require an 
outpatient TTE and followup with cardiology.  Anticoagulation 
was deferred given prognosis with pancreatic cancer.  

# CV-p: Patient with e/o mild CHF in the setting of volume 
resuscitation during her arrhythmia.  She was diuresed with 
lasix 20mg IV successfully.  She was above her dry weight of 152 
lbs, weight in the 160 lbs while admitted.  She had no 
respiratory symptoms but still had significant ___ edema on 
discharge.  Lasix should be continued until she is at her dry 
weight and then held to see whether her weight rise suggesting 
that she may need daily lasix. 

#. Pancreatic adenocarcinoma- on FOLFIRINOX, started ___. 
Hold additional therapy pending resolution of above.  ___ switch 
to FOLFOX or Gem/Abraxane as outpt. 

#. Tinea pedis- terbinafine
 
#. HL- stopped home statin

#. GERD- PPI

TRANSITIONAL ISSUES:
- weigh daily on a standing scale
- continue lasix for diuresis, can stop giving lasix when she 
hits her dry weight of 152lbs and then consider whether to 
restart based on whether her weights are stable
- establish outpatient cardiology followup
- consider TTE
- titrate loperamide and tincture of opium dosing to ___ BM 
daily
Complete Amiodarone load as follows: 
- Amiodarone 200 mg TID ___
- Amiodarone 200 mg BID ___ - ___
- Amiodarone 200 mg daily ___ onward
- check EKG on ___, if QTc > 500 hold Amiodarone and contact 
Dr. ___ further instruction Phone: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU BID 
2. Atorvastatin 20 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Zenpep (lipase-protease-amylase) 10,000-34,000 -55,000 unit 
oral QID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Omeprazole 20 mg PO BID 
4. Zenpep (lipase-protease-amylase) 10,000-34,000 -55,000 unit 
oral QID 
5. Amiodarone 200 mg PO TID Duration: 3 Days 
- Amiodarone taper 
 200 mg TID ___
 200 mg BID ___ - ___
 200 mg daily ___ onward 
6. Furosemide 40 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Opium Tincture 5 DROP PO Q6H:PRN diarrhea 
titrate to ___ BM daily 
9. LOPERamide 2 mg PO QID:PRN diarrhea 
Titrate to ___ BM daily 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Neutropenia
Fever
Atrial fibrillation with rapid ventricular response
Diarrhea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you and getting to you know at 
___.  You were admitted with fevers and low blood 
counts.  You were given broad coverage with antibiotics until 
you no longer had fevers.  You tested negative for C. diff and 
your diarrhea was controlled with immodium and tincture of 
opium.  You went into a fast heart rhythm with low blood 
pressure that requries you take several new medications.  You 
had extra fluid on your body and were given diuretics.  

You will need to make sure you have a followup appointment 
scheduled with cardiology. 
 
Followup Instructions:
___